************************************************************************
* auCdl Netlist:
* 
* Library Name:  project3
* Top Cell Name: 4_bit_ripple_carry_adder
* View Name:     schematic
* Netlisted on:  Apr 18 01:49:09 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: project_1
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter A A~
*.PININFO A:I A~:O
MM0 A~ A vdd! vdd! PMOS_VTL W=337.5n L=50n m=1
MM1 A~ A gnd! gnd! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: project_1
* Cell Name:    XOR2
* View Name:    schematic
************************************************************************

.SUBCKT XOR2 A B Out
*.PININFO A:I B:I Out:O
MM3 Out net14 net4 vdd! PMOS_VTL W=337.5n L=50n m=1
MM2 Out net3 net8 vdd! PMOS_VTL W=337.5n L=50n m=1
MM1 net8 B vdd! vdd! PMOS_VTL W=337.5n L=50n m=1
MM0 net4 A vdd! vdd! PMOS_VTL W=337.5n L=50n m=1
MM7 net17 net14 gnd! gnd! NMOS_VTL W=180.0n L=50n m=1
MM6 net21 B gnd! gnd! NMOS_VTL W=180.0n L=50n m=1
MM5 Out A net21 gnd! NMOS_VTL W=180.0n L=50n m=1
MM4 Out net3 net17 gnd! NMOS_VTL W=180.0n L=50n m=1
XI1 B net14 / inverter
XI0 A net3 / inverter
.ENDS

************************************************************************
* Library Name: project_1
* Cell Name:    NAND2
* View Name:    schematic
************************************************************************

.SUBCKT NAND2 A B Out
*.PININFO A:I B:I Out:O
MM1 Out B vdd! vdd! PMOS_VTL W=337.5n L=50n m=1
MM0 Out A vdd! vdd! PMOS_VTL W=337.5n L=50n m=1
MM3 net9 B gnd! gnd! NMOS_VTL W=180.0n L=50n m=1
MM2 Out A net9 gnd! NMOS_VTL W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: project_3
* Cell Name:    full_adder_1_bit
* View Name:    schematic
************************************************************************

.SUBCKT full_adder_1_bit A B C_in C_out S
*.PININFO A:I B:I C_in:I C_out:O S:O
XI1 net3 C_in S / XOR2
XI0 A B net3 / XOR2
XI4 net3 C_in net11 / NAND2
XI3 net11 net9 C_out / NAND2
XI2 A B net9 / NAND2
.ENDS

************************************************************************
* Library Name: project3
* Cell Name:    4_bit_ripple_carry_adder
* View Name:    schematic
************************************************************************

.SUBCKT 4_bit_ripple_carry_adder A<3> A<2> A<1> A<0> B<3> B<2> B<1> B<0> C_in 
+ C_out Sout<3> Sout<2> Sout<1> Sout<0>
*.PININFO A<3>:I A<2>:I A<1>:I A<0>:I B<3>:I B<2>:I B<1>:I B<0>:I C_in:I 
*.PININFO C_out:O Sout<3>:O Sout<2>:O Sout<1>:O Sout<0>:O
XI3 A<3> B<3> net15 C_out Sout<3> / full_adder_1_bit
XI2 A<2> B<2> net10 net15 Sout<2> / full_adder_1_bit
XI1 A<1> B<1> net1 net10 Sout<1> / full_adder_1_bit
XI0 A<0> B<0> C_in net1 Sout<0> / full_adder_1_bit
.ENDS

