************************************************************************
* auCdl Netlist:
* 
* Library Name:  project_3
* Top Cell Name: NAND2
* View Name:     schematic
* Netlisted on:  Apr 17 15:19:09 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: project_3
* Cell Name:    NAND2
* View Name:    schematic
************************************************************************

.SUBCKT NAND2 A B Out
*.PININFO A:I B:I Out:O
MM1 Out B vdd! vdd! PMOS_VTL W=337.5n L=50n m=1
MM0 Out A vdd! vdd! PMOS_VTL W=337.5n L=50n m=1
MM3 net9 B gnd! gnd! NMOS_VTL W=180.0n L=50n m=1
MM2 Out A net9 gnd! NMOS_VTL W=180.0n L=50n m=1
.ENDS

