************************************************************************
* auCdl Netlist:
* 
* Library Name:  project3
* Top Cell Name: XOR2
* View Name:     schematic
* Netlisted on:  Apr 17 15:32:13 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: project_1
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter A A~
*.PININFO A:I A~:O
MM0 A~ A vdd! vdd! PMOS_VTL W=337.5n L=50n m=1
MM1 A~ A gnd! gnd! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: project3
* Cell Name:    XOR2
* View Name:    schematic
************************************************************************

.SUBCKT XOR2 A B Out
*.PININFO A:I B:I Out:O
MM3 Out net14 net4 vdd! PMOS_VTL W=337.5n L=50n m=1
MM2 Out net3 net8 vdd! PMOS_VTL W=337.5n L=50n m=1
MM1 net8 B vdd! vdd! PMOS_VTL W=337.5n L=50n m=1
MM0 net4 A vdd! vdd! PMOS_VTL W=337.5n L=50n m=1
MM7 net17 net14 gnd! gnd! NMOS_VTL W=180.0n L=50n m=1
MM6 net21 B gnd! gnd! NMOS_VTL W=180.0n L=50n m=1
MM5 Out A net21 gnd! NMOS_VTL W=180.0n L=50n m=1
MM4 Out net3 net17 gnd! NMOS_VTL W=180.0n L=50n m=1
XI1 B net14 / inverter
XI0 A net3 / inverter
.ENDS

