************************************************************************
* auCdl Netlist:
* 
* Library Name:  project_1
* Top Cell Name: inverter
* View Name:     schematic
* Netlisted on:  Mar  6 00:11:54 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: project_1
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter input_pin output_pin
*.PININFO input_pin:I output_pin:O
MM0 output_pin input_pin vdd! vdd! PMOS_VTL W=337.5n L=50n m=1
MM1 output_pin input_pin gnd! gnd! NMOS_VTL W=90n L=50n m=1
.ENDS

